US06613942B1
5-Formylindole:
5-formyl-N-tosylindole (0.5 g, 1.7 mmol) was dissolved in a mixture of methanol (10 mL) containing 5% aqueous KOH solution (5 mL). The mixture was refluxed for 3 h, neutralized with 1N hydrochloric acid, and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (MgSO4), and concentrated. The residue was purified by short column chromatography to provide 240 mg (97%) of the desired product.

reactant | 5-formyl-N-tosylindole | 1.7 mmol, 0.5 g | C(=O)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1 | C16H13NO3S
reactant | KOH | 5 mL | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-Formylindole | 240 mg, 97% | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
